US07390809B2
Step B: 7-N-(tert-Butoxycarbonyl)-8-(cyclopropylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine
A mixture of 50 mg (0.15 mmol) of tert-butyl 8-(cyclopropylmethylene)-2-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[1,5-α]pyrazine-7(8H)-carboxylate and 25 mg of 10% palladium on carbon in 0.5 mL of ethanol was stirred under an atmosphere of hydrogen overnight. The mixture was filtered and the filtrate concentrated to give the title compound.

reactant | tert-butyl 8-(cyclopropylmethylene)-2-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[1,5-α]pyrazine-7(8H)-carboxylate | 0.15 mmol, 50 mg | C1(CC1)C=C1C=2N(CCN1C(=O)OC(C)(C)C)N=C(N2)C(F)(F)F | C15H19F3N4O2
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 7-N-(tert-Butoxycarbonyl)-8-(cyclopropylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazine | C(C)(C)(C)OC(=O)N1C(C=2N(CC1)N=C(N2)C(F)(F)F)CC2CC2 | C15H21F3N4O2
